US04728645
A solution of 1,9 g of ethyl p-cyanophenylacetate in 50 ml of diglyme is added to a slurry of 0.48 g of sodium hydride (50% oil dispersion) in 10 ml of diglyme. The reaction mixture is stirred at room temperature for 2 h, cooled to 0° and 1.75 g of N-bromosuccinimide is added portionwise. The solvent is evaporated under high vacuum and the residue is chromatographed on 50 g of silica with ether to yield ethyl-α-bromo-p-cyanophenylacetate.

reactant | ethyl p-cyanophenylacetate | 1,9 g | C(#N)C1=CC=C(C=C1)CC(=O)OCC | C11H11NO2
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | N-bromosuccinimide | 1.75 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | diglyme | 50 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 10 ml | COCCOCCOC | C6H14O3
product | ethyl-α-bromo-p-cyanophenylacetate | C(C)OC(C(Br)C1=CC=C(C=C1)C#N)=O | C11H10BrNO2
